* Subcircuit SN74LS21
.subckt SN74LS21 net-_d11-pad2_ net-_r1-pad1_ net-_d1-pad2_ net-_d17-pad2_ net-_q3-pad3_ net-_d15-pad2_ net-_d18-pad2_ net-_q10-pad1_ net-_d14-pad2_ net-_d19-pad2_ net-_d13-pad2_ net-_d10-pad2_ ? ? 
* d:\fossee\esim\library\subcircuitlibrary\sn74ls21\sn74ls21.cir
.include NPN.lib
.include D.lib
r5  net-_r1-pad1_ net-_d10-pad1_ 20k
r6  net-_r1-pad1_ net-_q6-pad2_ 10k
r7  net-_r1-pad1_ net-_q2-pad2_ 8k
r8  net-_r1-pad1_ net-_q2-pad1_ 75
q2 net-_q2-pad1_ net-_q2-pad2_ net-_d5-pad1_ Q2N2222
q5 net-_q2-pad1_ net-_d5-pad1_ net-_q10-pad1_ Q2N2222
r10  net-_q10-pad1_ net-_d5-pad1_ 4.5k
q10 net-_q10-pad1_ net-_d5-pad2_ net-_d11-pad2_ Q2N2222
r14  net-_q12-pad1_ net-_d5-pad2_ 3k
r13  net-_q12-pad2_ net-_d5-pad2_ 1.5k
q12 net-_q12-pad1_ net-_q12-pad2_ net-_d11-pad2_ Q2N2222
q6 net-_q2-pad2_ net-_q6-pad2_ net-_d5-pad2_ Q2N2222
q8 net-_q6-pad2_ net-_d10-pad1_ net-_d12-pad1_ Q2N2222
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
d8 net-_d10-pad1_ net-_d19-pad2_ 1N4148
d2 net-_d10-pad1_ net-_d17-pad2_ 1N4148
d6 net-_d10-pad1_ net-_d18-pad2_ 1N4148
d10 net-_d10-pad1_ net-_d10-pad2_ 1N4148
d18 net-_d11-pad2_ net-_d18-pad2_ 1N4148
d20 net-_d11-pad2_ net-_d10-pad2_ 1N4148
d19 net-_d11-pad2_ net-_d19-pad2_ 1N4148
d17 net-_d11-pad2_ net-_d17-pad2_ 1N4148
d12 net-_d12-pad1_ net-_d11-pad2_ 1N4148
r2  net-_r1-pad1_ net-_d1-pad1_ 20k
r1  net-_r1-pad1_ net-_q4-pad2_ 10k
r4  net-_r1-pad1_ net-_q1-pad2_ 8k
r3  net-_r1-pad1_ net-_q1-pad1_ 75
q1 net-_q1-pad1_ net-_q1-pad2_ net-_d3-pad1_ Q2N2222
q3 net-_q1-pad1_ net-_d3-pad1_ net-_q3-pad3_ Q2N2222
r9  net-_q3-pad3_ net-_d3-pad1_ 4.5k
q9 net-_q3-pad3_ net-_d3-pad2_ net-_d11-pad2_ Q2N2222
r11  net-_q11-pad1_ net-_d3-pad2_ 3k
r12  net-_q11-pad2_ net-_d3-pad2_ 1.5k
q11 net-_q11-pad1_ net-_q11-pad2_ net-_d11-pad2_ Q2N2222
q4 net-_q1-pad2_ net-_q4-pad2_ net-_d3-pad2_ Q2N2222
q7 net-_q4-pad2_ net-_d1-pad1_ net-_d11-pad1_ Q2N2222
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
d7 net-_d1-pad1_ net-_d14-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d4 net-_d1-pad1_ net-_d15-pad2_ 1N4148
d9 net-_d1-pad1_ net-_d13-pad2_ 1N4148
d15 net-_d11-pad2_ net-_d15-pad2_ 1N4148
d13 net-_d11-pad2_ net-_d13-pad2_ 1N4148
d14 net-_d11-pad2_ net-_d14-pad2_ 1N4148
d16 net-_d11-pad2_ net-_d1-pad2_ 1N4148
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
* Control Statements

.ends SN74LS21